US04423047
2-Benzylsulfinyl-5-bromopyrimidine
The oxidation of 2-benzylthio-5-bromopyrimidine was carried out using one molar equivalent of 85% m-chloroperbenzoic acid in dichloromethane, initially at -10° C. and then at 0° C., as described in Example 40 above; yield 91%, m.p. 101° C. (iPrOH). 1H NMR (CDCl3); δ4.26 and 4.31 (CH2), 7.16 (Ph), 8.80 (H-4, H-6).

reactant | 2-benzylthio-5-bromopyrimidine | C(C1=CC=CC=C1)SC1=NC=C(C=N1)Br | C11H9BrN2S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | iPrOH | CC(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Benzylsulfinyl-5-bromopyrimidine | yield 91% | C(C1=CC=CC=C1)S(=O)C1=NC=C(C=N1)Br | C11H9BrN2OS
